US06809090B2
12.1) 3-nitrophenylethanol Mesylate
A solution of 4.63 ml (59.8 mmol) of methane sulphonyl chloride diluted with 20 ml of dichloromethane is added dropwise to a solution of 10 g (59.8 mmol) of 3-nitrophenylethanol and 8.31 ml (59.8 mmol) of triethylamine in 120 ml of dichloromethane, cooled down with an ice bath. Agitation is maintained for 1 hour at 0° C. and for 2 hours at 20° C. The reaction mixture is then concentrated under vacuum and the residue is taken up in 125 ml of ethyl acetate and 100 ml of water. After agitation and decantation, the organic phase is washed successively with 100 ml of water and 100 ml of salt water. The organic solution is dried over magnesium sulphate, filtered and concentrated under vacuum. The evaporation residue is purified on a silica column (eluent heptane/ethyl acetate 6/4) and the pure fractions are collected and evaporated in order to produce a yellow oil with a yield of 71%.

reactant | methane sulphonyl chloride | 59.8 mmol, 4.63 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-nitrophenylethanol | 59.8 mmol, 10 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)O | C8H9NO3
reactant | triethylamine | 59.8 mmol, 8.31 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 3-nitrophenylethanol Mesylate | yield of 71% | S(C)(=O)(=O)OC(C)C1=CC(=CC=C1)[N+](=O)[O-] | C9H11NO5S
